US07223772B1
N-Acetyl-4-[2-(4-fluorophenyl)-6-(trifluoromethyl)pyrazolo[1,5-a]pyridin-3-yl]benzenesulfonamide
A solution of 4-[2-(4-fluoro-phenyl)-6-trifluoromethyl-pyrazolo[1,5-a]pyridin-3-yl]benzenesulphonamide (0.185 g 0.42 mmol), triethylamine (0.4 ml), 4-dimethylaminopyridine (0.024 g 0.18 mmol) and acetic anhydride (0.12 ml 1.2 mmol) in chloroform (10 ml) was stirred at room temperature for 4 hr. The reaction mixture was washed with 2M hydrochloric acid (10 ml), M Na2CO3 (5 ml) and water (10 ml). Drying (MgSO4) and removal of solvent gave the title compound as a white solid (0.06 g 31%).

reactant | 4-[2-(4-fluoro-phenyl)-6-trifluoromethyl-pyrazolo[1,5-a]pyridin-3-yl]benzenesulphonamide | 0.42 mmol, 0.185 g | FC1=CC=C(C=C1)C1=NN2C(C=CC(=C2)C(F)(F)F)=C1C1=CC=C(C=C1)S(=O)(=O)N | C20H13F4N3O2S
reactant | triethylamine | 0.4 ml | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 1.2 mmol, 0.12 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | 4-dimethylaminopyridine | 0.18 mmol, 0.024 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | N-Acetyl-4-[2-(4-fluorophenyl)-6-(trifluoromethyl)pyrazolo[1,5-a]pyridin-3-yl]benzenesulfonamide | 0.06 g, 31% | C(C)(=O)NS(=O)(=O)C1=CC=C(C=C1)C=1C(=NN2C1C=CC(=C2)C(F)(F)F)C2=CC=C(C=C2)F | C22H15F4N3O3S
